US08084469B2
1-tert-Butyl 3-methyl 5-[3-fluoro-4-(trifluoromethoxy)phenyl]piperidine-1,3-dicarboxylate [racemic cis/trans isomer mixture]
1.02 g (3.17 mmol) of methyl 5-[3-fluoro-4-(trifluoromethoxy)phenyl]piperidine-3-carboxylate were dissolved in 43 ml of dichloromethane and admixed, while cooling with an ice bath, with 0.88 ml (0.64 g, 6.34 mmol) of triethylamine. 0.69 g (3.17 mmol) of di-tert-butyl dicarbonate, dissolved in 20 ml of dichloromethane, was added. After a reaction time of one hour, the mixture was admixed with 50 ml of dichloromethane and washed three times with 100 ml of water each time. The organic phase was dried over sodium sulphate, filtered and concentrated under reduced pressure. Yield: 1.25 g (93% of theory)

reactant | methyl 5-[3-fluoro-4-(trifluoromethoxy)phenyl]piperidine-3-carboxylate | 3.17 mmol, 1.02 g | FC=1C=C(C=CC1OC(F)(F)F)C1CC(CNC1)C(=O)OC | C14H15F4NO3
reactant | triethylamine | 6.34 mmol, 0.88 ml, 0.64 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 3.17 mmol, 0.69 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 43 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-tert-Butyl 3-methyl 5-[3-fluoro-4-(trifluoromethoxy)phenyl]piperidine-1,3-dicarboxylate | FC=1C=C(C=CC1OC(F)(F)F)C1CC(CN(C1)C(=O)OC(C)(C)C)C(=O)OC | C19H23F4NO5
